US04960766
To a mixture of benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trifluoroacetate (syn isomer, 4.9 g) in a mixture of methanol (50 ml) and tetrahydrofuran (10 ml) was added conc. hydrochloric acid (2.13 g) and the mixture was stirred at ambient temperature for 3 hours. Water (50 ml) and ethyl acetate (50 ml) were added thereto and the mixture was adjusted to pH 7.0 with 5% aqueous solution of sodium bicarbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated to give benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate chloride (syn isomer, 3.66 g).

reactant | benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trifluoroacetate | 4.9 g | FC(C(=O)[O-])(F)F.C1(C=CCC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O
reactant | hydrochloric acid | 2.13 g | Cl | ClH
reactant | Water | 50 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate chloride | 3.66 g | [Cl-].NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC1C=CCC1 | InChI=1S/C35H33N7O5S2.ClH/c1-40-17-10-18-41(40)19-24-20-48-33-28(38-31(43)27(26-21-49-35(36)37-26)39-47-25-15-8-9-16-25)32(44)42(33)29(24)34(45)46-30(22-11-4-2-5-12-22)23-13-6-3-7-14-23;/h2-8,10-15,17-18,21,25,28,30,33H,9,16,19-20H2,1H3,(H2-,36,37,38,43);1H/t25?,28-,33-;/m1./s1
